US08293744B2
Step 2: Preparation of (±)-tetrahydro-2H-pyran-3-ylhydrazine hydrochloride:
(±)-tert-Butyl 2-(tetrahydro-2H-pyran-3-yl)hydrazinecarboxylate (216 mg, 1.00 mmol) was dissolved in dichloromethane (10 mL) and ethyl acetate (10 mL) and cooled to 0° C. The mixture was saturated with gaseous hydrogen chloride, warmed to ambient temperature and stirred for 1 hour. The mixture was concentrated in vacuo and the residue was concentrated with toluene (2×20 mL) to afford the titled compound.

reactant | (±)-tert-Butyl 2-(tetrahydro-2H-pyran-3-yl)hydrazinecarboxylate | 1.00 mmol, 216 mg | O1CC(CCC1)NNC(=O)OC(C)(C)C | C10H20N2O3
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (±)-tetrahydro-2H-pyran-3-ylhydrazine hydrochloride | Cl.O1CC(CCC1)NN | InChI=1S/C5H12N2O.ClH/c6-7-5-2-1-3-8-4-5;/h5,7H,1-4,6H2;1H
